US20010000513A1
A suspension of 4-(4′-bromo-2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester (2.94 g, 0.00805 mol) in 6 M hydrochloric acid was refluxed for 23 hours and allowed to cool. The solids were filtered, washed with 0.1 M hydrochloric acid, and dried under house vacuum to give 2.76 g of 4-(4′-bromo-2′-fluoro-biphenyl4-yl)-4-oxo-butyric acid as a pale yellow solid; mp 145-147° C.

reactant | 4-(4′-bromo-2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 0.00805 mol, 2.94 g | BrC1=CC(=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O)F | C17H14BrFO3
solvent | hydrochloric acid | 6 M | Cl | ClH
product | 4-(4′-bromo-2′-fluoro-biphenyl4-yl)-4-oxo-butyric acid | 2.76 g | BrC1=CC(=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O)F | C16H12BrFO3
